US05585497
4-Hydrazino-1-naphthalenesulphonic acid hydrochloride
4 g of NaOH are added to a suspension of 22.33 g of 4-amino-1-naphthalenesulphonic acid in 125 ml of water. The mixture is cooled to 0° C. and 2 ml of concentrated NaOH are added, followed by 7.5 g of sodium nitrite and 125 g of ice to maintain the temperature at 0° C. The suspension thereby obtained is poured into 75 ml of concentrated HCl cooled beforehand to 0° C., and left stirring for 2 hours 15 minutes at this temperature. The reaction mixture is added slowly to a solution, cooled beforehand to -10° C., of 55 g of stannous chloride dihydrate in 50 ml of concentrated HCl and 25 ml of water. After one night, the expected product is obtained by filtration, rinsing with 1N HCl and with water, m=23.96 g.

reactant | NaOH | 4 g | [OH-].[Na+]
reactant | 4-amino-1-naphthalenesulphonic acid | 22.33 g | NC1=CC=C(C2=CC=CC=C12)S(=O)(=O)O | C10H9NO3S
reactant | NaOH | 2 ml | [OH-].[Na+]
reactant | sodium nitrite | 7.5 g | N(=O)[O-].[Na+]
reactant | HCl | 50 ml | Cl | ClH
reactant | HCl | 75 ml | Cl | ClH
solvent | water | 125 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | 4-Hydrazino-1-naphthalenesulphonic acid hydrochloride | Cl.N(N)C1=CC=C(C2=CC=CC=C12)S(=O)(=O)O | InChI=1S/C10H10N2O3S.ClH/c11-12-9-5-6-10(16(13,14)15)8-4-2-1-3-7(8)9;/h1-6,12H,11H2,(H,13,14,15);1H
